Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ANESTHESIOLOGY
 
Allergies: 
ampicillin
 
Attending: ___
 
Chief Complaint:
tongue swelling and trouble swallowing

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mrs. ___ is a ___ yo F with a PMH of depression. At around 2 
AM this morning the patient was waking up and noticed that her 
tongue was swollen, that she had trouble swallowing, and that 
her voice was muffled. She took anti-histamines without 
significant improvement of her symptoms. She was seen in ___ 
clinic later this morning. Here a FOE revealed supraglottic 
angioedema involving the epiglottis and left arytenoid. 
She was sent to the emergency department for further assessment. 

She received IV decadron, racemic epi, benadryl, and famotidine 
with slight improvement in symptoms. 
She underwent a repeat FOE by ___ in the emergency department 
which showed interval improvement in edema of epiglottis and 
left arytenoid but remaining edema of at least moderate 
severity. However her airway remained patent. She was admitted 
to SICU for airway watch. 
 
Past Medical History:
PMH:
depression

PSH: 
hysterectomy and unilateral oophorectomy for uterine fibroids
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
Vital Signs: afebrile, HR 81, O2 98% RA, BP ___, RR 18 
GENERAL: No apparent distress, Appears stated age
EYES:  PERRLA. No scleral injection, No conjunctival erythema
HEENT
HEAD: Normocephalic, Atraumatic, no appreciable swelling
NECK: Trachea midline, Supple, No thyromegaly
LYMPH: No anterior/posterior cervical lymphadenopathy.
RESP: Breathing comfortably. CTAB, No wheezing, rhonchi or rales
___: RRR, S1+S2, No peripheral edema
SKIN: Normal temperature, turgor and texture, No rash on arms, 
legs, trunk or head/neck, No ulcers seen, No angioedema, No 
subcutaneous nodules
EXTREMITIES: No digital cyanosis
PSYCH: Normal affect, Conversing appropriately, A+Ox3
 
Pertinent Results:
___ 10:45AM   GLUCOSE-90 UREA N-15 CREAT-0.7 SODIUM-138 
POTASSIUM-5.8* CHLORIDE-101 TOTAL CO2-23 ANION GAP-14
___ 10:45AM   WBC-7.6 RBC-4.67 HGB-13.9 HCT-41.8 MCV-90 
MCH-29.8 MCHC-33.3 RDW-13.5 RDWSD-44.1
___ 10:45AM   NEUTS-71.5* ___ MONOS-7.3 EOS-0.9* 
BASOS-0.3 IM ___ AbsNeut-5.41 AbsLymp-1.48 AbsMono-0.55 
AbsEos-0.07 AbsBaso-0.02
___ 10:45AM   PLT COUNT-222
 
Brief Hospital Course:
Presenting complaint: tongue swelling and trouble swallowing. ___ 
yo F with a PMH of depression. At around 2 AM this morning the 
patient was waking up and noticed that her tongue was swollen, 
that she had trouble swallowing, and that her voice was muffled. 
She took anti-histamines without significant improvement of her 
symptoms. She was seen in ___ clinic later this morning. Here a 
FOE revealed supraglottic angioedema involving the epiglottis 
and left arytenoid. She was sent to the emergency department for 
further assessment. She received IV decadron, racemic epi, 
benadryl, and famotidine with slight improvement in symptoms. 
She underwent a repeat FOE by ORL in the emergency department 
which showed interval improvement in edema of epiglottis and 
left arytenoid but remaining edema of at least moderate 
severity. However her airway remained patent. She was admitted 
to SICU for airway watch.

While in the ICU, angioedema Improved. Patient able to speak 
with clear and unobstructed voice. No stridor. No drooling. She 
completed 3 doses of 10mg IV dexamethasone. Allergy was 
consulted and recommended starting  Cetirizine 10 mg 1 tab twice 
daily and  Famotidine 20 mg 1 tab twice daily. Also recommended 
Prednisone 40 mg PO for acute swelling episode and a Epinephrine 
autoinjector prescription. They will plan to follow up with her 
as an outpatient. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. FLUoxetine 20 mg PO DAILY 

 
Discharge Medications:
1.  Cetirizine 10 mg PO BID  
2.  EPINEPHrine (EpiPEN) 0.3 mg IM ONCE MR1 anaphylaxis 
Duration: 1 Dose 
RX *epinephrine 0.3 mg/0.3 mL 0.3 mL IM ONCE Disp #*1 Package 
Refills:*0 
3.  Famotidine 20 mg PO BID 
RX *famotidine 20 mg 2 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0 
4.  PredniSONE 40 mg PO PRN Throat Swelling 
RX *prednisone 20 mg 2 tablet(s) by mouth once a day Disp #*10 
Tablet Refills:*0 
5.  FLUoxetine 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Angioedema

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Followup Instructions:
___